US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-7-fluoroquinazoline-2,4(1H,3H)-dione (2.70 g, 7.73 mmol), iodomethane (0.580 mL, 9.28 mmol) and Cs2CO3 (3.78 g, 11.6 mmol) in THF (20 mL) was stirred at room temperature for 3 h. The mixture was filtered and the filtrate was diluted with DCM and washed with water. The aqueous phase was extracted with DCM, and the combined organic phases were dried and concentrated to give 3-(3-bromo-2-methylphenyl)-7-fluoro-1-methylquinazoline-2,4(1H,3H)-dione (2.85 g), used without further purification. Mass spectrum m/z 363, 365 (M+H)+, 385, 387 (M+Na)+.

reactant | 3-(3-bromo-2-methylphenyl)-7-fluoroquinazoline-2,4(1H,3H)-dione | 7.73 mmol, 2.70 g | BrC=1C(=C(C=CC1)N1C(NC2=CC(=CC=C2C1=O)F)=O)C | C15H10BrFN2O2
reactant | iodomethane | 9.28 mmol, 0.580 mL | IC | CH3I
reactant | Cs2CO3 | 11.6 mmol, 3.78 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-7-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 2.85 g | BrC=1C(=C(C=CC1)N1C(N(C2=CC(=CC=C2C1=O)F)C)=O)C | C16H12BrFN2O2
